US07951951B2
150.0 mg (0.54 mmol) of 4-[(6-chloropyridin-3-yl)methyl]-6-methylene-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one (cf. I-5) are dissolved in 75 ml of toluene, 40 mg (0.043 mmol) of tris(triphenylphosphine)rhodium(I) chloride and 15 mg (0.057 mmol) of triphenylphosphine are added and the mixture is hydrogenated under a hydrogen pressure of 3 bar and at 110-120° C. for 10 hours. The mixture is filtered and the filtrate is concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase ethyl acetate/cyclohexane (2:1 to 4:1) gives both possible diastereomers of 4-[(6-chloropyridin-3-yl)methyl]-6-methyl-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one: (a) 85 mg (56% of theory) of diastereomer A and (b) after preparative HPLC 18 mg (12% of theory) of diastereomer B.

reactant | 4-[(6-chloropyridin-3-yl)methyl]-6-methylene-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one | 0.54 mmol, 150.0 mg | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)=C)OC(C2)=O | C14H13ClN2O2
reactant | triphenylphosphine | 0.057 mmol, 15 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(triphenylphosphine)rhodium(I) chloride | 0.043 mmol, 40 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 4-[(6-chloropyridin-3-yl)methyl]-6-methyl-5,6,7,7a-tetrahydrofuro-[3,2-b]pyridin-2(4H)-one | ClC1=CC=C(C=N1)CN1C=2C(CC(C1)C)OC(C2)=O | C14H15ClN2O2
